US05541178
Allyl 3-allyloxy-4-aminobenzoate (7 g, 30 mM) was dissolved in triethylorthoformate (70 ml), treated with trifluoroacetic acid (10 drops), and heated under reflux for 5 hours. Solvent was removed by evaporation, and the residual oil was dissolved in ethanol (70 ml), then treated with glacial acetic acid (8.59 ml, 150 mM) followed by sodium cyanoborohydride (9.43 g, 150 mM) in several portions. The mixture was then left to stir at ambient temperature under a blanket of argon for 18 hours. Solvent was removed, and the residue treated with water (50 ml) and extracted into diethyl ether. The combined extracts were washed with water and brine before being dried over MgSO4. After removal of the solvent, the residue was purified by chromatography over silica, eluting with a gradient of dichloromethane/ethyl acetate (100:0 to 95:5), to give allyl 3-allyloxy-4-methylaminobenzoate (3.08 g, 41%).

reactant | Allyl 3-allyloxy-4-aminobenzoate | 30 mM, 7 g | C(C=C)OC=1C=C(C(=O)OCC=C)C=CC1N | C13H15NO3
reactant | triethylorthoformate | 70 ml | C(C)OC(OCC)OCC | C7H16O3
catalyst | trifluoroacetic acid | 10 drops | FC(C(=O)O)(F)F | C2HF3O2
product | allyl 3-allyloxy-4-methylaminobenzoate | 3.08 g, 41% | C(C=C)OC=1C=C(C(=O)OCC=C)C=CC1NC | C14H17NO3
